US07425568B2
2-(2,3-Difluorophenyl)chroman-6-ol was prepared as described for 2-(3-fluorophenyl)chroman-6-ol in Example 9(c) starting from 1.5 g of 2-(2,3-difluorophenyl)chroman-4,6-diol. 1H NMR (400 MHz, d6-DMSO) δ: 8.85 (s, 1H), 7.41 (m, 1H), 7.33 (m, 1H), 7.26 (m, 1H), 6.64 (dd, 1H, 9.0, 2.8 Hz), 6.54-6.51 (m, 2H), 5.25 (dd, 1H, J 10.2, 2.2 Hz), 2.93 (m, 1H), 2.66 (m, 1H), 2.14 (m, 1H), 2.01 (m, 1H).

reactant | 2-(3-fluorophenyl)chroman-6-ol | FC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)O | C15H13FO2
reactant | 2-(2,3-difluorophenyl)chroman-4,6-diol | 1.5 g | FC1=C(C=CC=C1F)C1OC2=CC=C(C=C2C(C1)O)O | C15H12F2O3
product | 2-(2,3-Difluorophenyl)chroman-6-ol | FC1=C(C=CC=C1F)C1OC2=CC=C(C=C2CC1)O | C15H12F2O2
